US07678800B2
Synthesis of 3-(2-piperazin-1-yl-phenylsulfanyl)-1H-indole
3 M HCl-gas in dry ethyl acetate (3 mL) was added to 3-[2-(4-tert-butoxycarbonyl-piperazin-1-yl)-phenylsulfanyl]-indole-1-carboxylic acid tert-butyl ester. The solution was stirred for 1 h at 0° C. and evaporated under vacuum. The crude product was purified by preparative LC-MS. The isolated product was submitted for testing as DMSO solution.

reactant | HCl | 3 M | Cl | ClH
reactant | 3-[2-(4-tert-butoxycarbonyl-piperazin-1-yl)-phenylsulfanyl]-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)SC1=C(C=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C28H35N3O4S
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 3-(2-piperazin-1-yl-phenylsulfanyl)-1H-indole | N1(CCNCC1)C1=C(C=CC=C1)SC1=CNC2=CC=CC=C12 | C18H19N3S
